US07820664B2
Step B: Methyl 7-fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylisoxazolo[4,3-b]pyridine-5-carboxylate:
To a suspension of methyl 7-fluoro-6-(2-fluorophenylamino)-3-methylisoxazolo[4,3-b]pyridine-5-carboxylate (1.35 g, 4.25 mmol) in DMF (40 ml) is added N-iodosuccinimide (1.43 g, 6.37 mmol) and TFA (2.5 ml). After stirring at room temperature for 4 h, the reaction is quenched with saturated aqueous NH4Cl solution (100 ml) and extracted with EtOAc (2×100 ml). The combined organic solution is washed with brine (100 ml), dried over MgSO4 and concentrated. Silica gel chromatography yields the title compound.

reactant | methyl 7-fluoro-6-(2-fluorophenylamino)-3-methylisoxazolo[4,3-b]pyridine-5-carboxylate | 4.25 mmol, 1.35 g | FC=1C=2C(N=C(C1NC1=C(C=CC=C1)F)C(=O)OC)=C(ON2)C | C15H11F2N3O3
reactant | N-iodosuccinimide | 6.37 mmol, 1.43 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | TFA | 2.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Methyl 7-fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylisoxazolo[4,3-b]pyridine-5-carboxylate | FC=1C=2C(N=C(C1NC1=C(C=C(C=C1)I)F)C(=O)OC)=C(ON2)C | C15H10F2IN3O3
